US06284764B1
4-Oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester:
ZnCl (0.63 g, 4.6 mmol) was dissolved in anhydrous THF (15 mL) and added to a solution of 1-methoxy-3-(trimethylsilyloxy)-1,3-butadiene (7.94 g, 46.0 mmol) and ethyl glyoxalate (7.05 g, 69.0 mmol) in totuene (30 mL) at room temperature. After stirring for 30 minutes, water (30 mL) and TFA (trifluoracetic acid) (2 mL) were added and the mixture was stirred vigorously for 20 min. After concentration, the residue was partitioned between EtOAc (200 mL) and water (100 mL). The separated organic layer was washed with brine, dried over sodium sulfate, and concentrated to give 8.0 g (100%) of brown oil which was carried to the next step without further purification. 1H NMR (CDCl3) δ 1.30 (t, 3H), 2.85 (d, 2H), 4.26 (q 2H), 5.00 (t, 1H), 5.48 (d, 1H), 7.39 (d, 1H).

reactant | 1-methoxy-3-(trimethylsilyloxy)-1,3-butadiene | 46.0 mmol, 7.94 g | COC=CC(=C)O[Si](C)(C)C | C8H16O2Si
reactant | ethyl glyoxalate | 69.0 mmol, 7.05 g | C(C=O)(=O)OCC | C4H6O3
reactant | water | 30 mL | O | H2O
reactant | TFA | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-Oxo-3,4-dihydro-2H-pyran-2-carboxylic acid ethyl ester | 8.0 g, 100% | C(C)OC(=O)C1OC=CC(C1)=O | C8H10O4
